US09260429B2
6-chloro-2-methyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole (69 mg, 0.31 mmol) was dissolved in DMF (6 mL). To this solution was added CuI (6 mg, 0.031 mmol), L-proline (7 mg, 0.063 mmol), K3PO4 (134 mg, 0.63 mmol). The reaction mixture was stirred for 10 min at room temperature followed by addition of 4-(1-bromoprop-1-en-2-yl)-1,2-dichlorobenzene (100 mg, 0.378 mmol). The reaction mixture was heated at 80° C. overnight. Solvent was evaporated under reduced pressure; the residue was diluted with brine and extracted with ethyl acetate. Organic layer was dried over Na2SO4, and concentrated under reduced pressure. The crude product was purified by silica gel chromatography to obtain 28 mg of 6-chloro-9-(2-(3,4-dichlorophenyl)prop-1-enyl)-2-methyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole. 1H NMR (DMSO) OXALATE SALT 7.95 (s, 1H), 7.62 (m, 3H), 7.30 (d, 1H), 7.20 (m, 2H), 4.30 (m, 2H), 3.40 (m, 2H), 3.0 (m, 2H), 2.82 (s, 3H), 1.90 (s, 3H).

reactant | 6-chloro-2-methyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | 0.31 mmol, 69 mg | ClC=1C=C2C3=C(NC2=CC1)CN(CC3)C | C12H13ClN2
reactant | L-proline | 0.063 mmol, 7 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | K3PO4 | 0.63 mmol, 134 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 4-(1-bromoprop-1-en-2-yl)-1,2-dichlorobenzene | 0.378 mmol, 100 mg | BrC=C(C)C1=CC(=C(C=C1)Cl)Cl | C9H7BrCl2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.031 mmol, 6 mg | [Cu]I
product | 6-chloro-9-(2-(3,4-dichlorophenyl)prop-1-enyl)-2-methyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | 28 mg | ClC=1C=C2C3=C(N(C2=CC1)C=C(C)C1=CC(=C(C=C1)Cl)Cl)CN(CC3)C | C21H19Cl3N2
